US07612054B2
7-Chloro-dibenzo[b,f]oxepine-10-carboxylic acid ((1S,2S,4R)-4-butylcarbamoyl-2-hydroxy-1-Isobutyl-pentyl)-amide
((1S,2S,4R)-4-Butylcarbamoyl-2-hydroxy-1-isobutyl-pentyl)-carbamic acid tert-butyl ester (66 mg, 0.18 mmol) are dissolved in 4N HCl in dioxane (3 ml). After stirring for 1 h at rt the solvent is evaporated and the residue dried in vacuum. The residue is dissolved in DCM (3 ml) and 7-Chloro-dibenzo[b,f]oxepine-10-carboxylic acid (60 mg, 0.22 mmol, 1.2 eq), HOBT (30 mg, 0.22 mmol, 1.2 eq), EDCl (53 mg, 0.28 mmol, 1.5 eq) and triethylamine (0.077 ml, 0.55 mmol, 3 eq) are added. The mixture is stirred over night at rt. The reaction mixture is diluted with DCM and washed with water, bicarbonate and brine. The organic layer is dried over magnesium sulfate and the solvent is evaporated. Purification on silica (Flashmaster, DCM/methanol 100%→90%) and crystallization from DCM/hexane gives the products as white crystals (50 mg).

reactant | ((1S,2S,4R)-4-Butylcarbamoyl-2-hydroxy-1-isobutyl-pentyl)-carbamic acid tert-butyl ester | 0.18 mmol, 66 mg | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](C)C(NCCCC)=O)O)CC(C)C)=O | C19H38N2O4
reactant | 7-Chloro-dibenzo[b,f]oxepine-10-carboxylic acid | 0.22 mmol, 60 mg, 1.2 eq | ClC1=CC2=C(C(=CC3=C(O2)C=CC=C3)C(=O)O)C=C1 | C15H9ClO3
reactant | HOBT | 0.22 mmol, 30 mg, 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.28 mmol, 53 mg, 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.55 mmol, 0.077 ml, 3 eq | C(C)N(CC)CC | C6H15N
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-Chloro-dibenzo[b,f]oxepine-10-carboxylic acid ((1S,2S,4R)-4-butylcarbamoyl-2-hydroxy-1-Isobutyl-pentyl)-amide | 50 mg | C(CCC)NC(=O)[C@@H](C[C@@H]([C@H](CC(C)C)NC(=O)C1=CC2=C(OC3=C1C=CC(=C3)Cl)C=CC=C2)O)C | C29H37ClN2O4
